US03975414
Preparation of N,N'-bis(4-anilinophenyl)-4,10-dithia-7-oxatridecanediamide
To a suspension of 100 grams of N-(4-anilinophenyl) acrylamide in 1200 milliliters of ethanol was added 29 grams of 2-mercaptoethyl ether. A solution of 5 grams of potassium hydroxide in 50 milliliters of ethanol was added at 20°C. Within 5 minutes the temperature began to rise, reaching a maximum of 29°C. after about 15 minutes. As the temperature began to rise, product began to precipitate. The reaction mixture was stirred for 1 hour and the solid product was then filtered off and allowed to dry. There was obtained 123 grams (95 percent of theory) of product which melted at 154°-156° C.

reactant | N-(4-anilinophenyl) acrylamide | 100 grams | N(C1=CC=CC=C1)C1=CC=C(C=C1)NC(C=C)=O | C15H14N2O
reactant | 2-mercaptoethyl ether | 29 grams | SCCOCCS | C4H10OS2
reactant | potassium hydroxide | 5 grams | [OH-].[K+]
solvent | ethanol | 1200 milliliters | C(C)O | C2H6O
solvent | ethanol | 50 milliliters | C(C)O | C2H6O
product | N,N'-bis(4-anilinophenyl)-4,10-dithia-7-oxatridecanediamide | N(C1=CC=CC=C1)C1=CC=C(C=C1)NC(CCSCCOCCSCCC(=O)NC1=CC=C(C=C1)NC1=CC=CC=C1)=O | C34H38N4O3S2
